US05256362
In 100 ml of benzene, 0.1 mol of 2-chloroethylamine hydrochloride and 0.1 mol of 2-mercaptothiazoline were dispersed, gradually heated to 80° C., and stirred for reaction at this temperature for 30 minutes. After completion of the reaction, the reaction mixture was filtered to obtain white 2-(2-aminoethylthio)-thiazoline dihydrochloride powder in a yield of 99.7%. In 100 ml of 36 wt % hydrochloric acid, 23.5 g (0.1 mol) of 2-(2-aminoethylthio)-thiazoline dihydrochloride was dissolved. The resultant solution was refluxed for 30 hours, to obtain cysteamine hydrochloride. Then, the cysteamine hydrochloride was concentrated to dryness under a vacuum and then thoroughly dissolved by heating to a temperature above 80° C. The solution was aspired with a Pasteur pipet 2 mm in mouth diameter and dropped onto a tetrafluoroethylene plate having the opposite side thereof cooled with water to 30° C. The white solid cysteamine hydrochloride heaps consequently deposited on the plate were hemispheres 3 to 5 mm in diameter and 2 to 3 mm in height.

reactant | 2-chloroethylamine hydrochloride | 0.1 mol | Cl.ClCCN
reactant | 2-mercaptothiazoline | 0.1 mol | SC=1SCCN1 | C3H5NS2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-aminoethylthio)-thiazoline dihydrochloride | yield of 99.7% | Cl.Cl.NCCSC=1SCCN1 | InChI=1S/C5H10N2S2.2ClH/c6-1-3-8-5-7-2-4-9-5;;/h1-4,6H2;2*1H
